US07943605B2
A solution of methyl (1-benzylpyrrolidin-3-ylidene)acetate a45 (3 g, 1.2 mmol, 1 eq), 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 0.7 g, 4.6 mmol, 3.8 eq) in nitromethane (30 ml) is refluxed for 30 h. The solution is concentrated in vacuum and the resulting oil is purified by chromatography over silicagel (ethyl acetate/hexane 30/70) to afford 3.7 g of methyl [1-benzyl-3-(nitromethyl)pyrrolidin-3-yl]acetate a46 as a black oil.

reactant | methyl (1-benzylpyrrolidin-3-ylidene)acetate | C(C1=CC=CC=C1)N1CC(CC1)=CC(=O)OC | C14H17NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.6 mmol, 0.7 g, 3.8 eq | N12CCCCCC2=NCCC1 | C9H16N2
reactant | nitromethane | 30 ml | [N+](=O)([O-])C | CH3NO2
product | methyl [1-benzyl-3-(nitromethyl)pyrrolidin-3-yl]acetate | 3.7 g, Yield: 100% | C(C1=CC=CC=C1)N1CC(CC1)(C[N+](=O)[O-])CC(=O)OC | C15H20N2O4
